US04372953
4-Ethylphenylmagnesium bromide is prepared from magnesium (0.25 g), 4-ethyl-1-bromobenzene (2.6 g) and dried tetrahydrofuran (10 ml). To the product is added dropwise a solution of 1-methyl-5-(3-cyanopropyl)thio-1,2,3,4-tetrazole (1.8 g) in dried tetrahydrofuran (10 ml) with stirring under ice-cooling. After the solution is added, the mixture is stirred at room temperature for 3 hours. To the mixture is added 1 N-HCl (50 ml) under ice-cooling and the mixture is stirred for 1 hour. The reaction mixture is diluted with water and extracted with chloroform. The chloroform solution is washed with saturated aqueous sodium bicarbonate and saturated aqueous sodium chloride and dried over sodium sulfate. After chloroform is distilled off, the residue is purified by column chromatography (Kieselgel 60) and eluted with benzene-ether (10:1) to give 1-methyl-5-[3-(4-ethylbenzoyl)propyl]thio-1,2,3,4-tetrazole (0.7 g) as colorless needles (recrystallized from hexane-ether), m.p. 68°-69° C.

reactant | magnesium | 0.25 g | [Mg] | Mg
reactant | 4-ethyl-1-bromobenzene | 2.6 g | C(C)C1=CC=C(C=C1)Br | C8H9Br
reactant | 1-methyl-5-(3-cyanopropyl)thio-1,2,3,4-tetrazole | 1.8 g | CN1N=NN=C1SCCCC#N | C6H9N5S
reactant | HCl | 50 ml | Cl | ClH
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 4-Ethylphenylmagnesium bromide | C(C)C1=CC=C(C=C1)[Mg]Br | InChI=1S/C8H9.BrH.Mg/c1-2-8-6-4-3-5-7-8;;/h4-7H,2H2,1H3;1H;/q;;+1/p-1
